US09382222B2
A mixture of 4-nitro-N-(2-trifluoromethyl-phenyl)-benzenesulfonamide (1.90 g, 5.49 mmol), 1-bromo-2-methyl propane (1.19 mL, 10.97 mmol) and K2CO3 (1.51 g, 10.97 mmol) in DMF (20 mL) was heated at 100° C. for 18 hours. The cooled mixture was diluted with EtOAc, washed with water and brine, dried over Na2SO4 and concentrated under vacuum. Purification by silica gel column chromatography (0-30% EtOAc in cyclohexane) gave N-isobutyl-4-nitro-N-(2-trifluoromethyl-phenyl)-benzenesulfonamide (1.69 g, 77%). 1H NMR (300 MHz, CDCl3) δ 8.34 (d, J=8.8 Hz, 2H), 7.88 (d, J=8.8 Hz, 2H), 7.78-7.70 (m, 1H), 7.61-7.47 (m, 2H), 7.23-7.16 (m, 1H), 3.48-3.31 (m, 2H), 1.76-1.60 (m, 1H), 0.88 (dd, J=10.1, 6.6 Hz, 6H). LCMS (m/z, Method A) ES+ no mass ion observed.

reactant | 4-nitro-N-(2-trifluoromethyl-phenyl)-benzenesulfonamide | 5.49 mmol, 1.90 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)C(F)(F)F | C13H9F3N2O4S
reactant | 1-bromo-2-methyl propane | 10.97 mmol, 1.19 mL | BrCC(C)C | C4H9Br
reactant | K2CO3 | 10.97 mmol, 1.51 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-isobutyl-4-nitro-N-(2-trifluoromethyl-phenyl)-benzenesulfonamide | 1.69 g, 77% | C(C(C)C)N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C1=C(C=CC=C1)C(F)(F)F | C17H17F3N2O4S
